US09422312B2
Step 1: N-(4-Bromobenzenesulfinyl)-2,2,2-trifluoroacetamide
Thionyl chloride (0.53 mL) is added to an ice-cooled solution of 4-bromobenzenesulfinic acid (400 mg) in dichloromethane (15 mL) under an argon atmosphere. The reaction mixture is stirred for 2 h at 0° C., warmed to room temperature, and stirred for an additional 30 min. The mixture is concentrated and the residue is co-evaporated twice with toluene to give crude 4-bromobenzenesulfinic chloride, which is dissolved in tetrahydrofuran (3 mL) and cooled to −78° C. n-Butyllithium (1.6 M in hexane; 2.26 mL) is added to 2,2,2-trifluoroacetamide (205 mg) in tetrahydrofuran (3 mL) at −78° C. and the reaction mixture is stirred for 10 min. The mixture is added to the 4-bromobenzenesulfinic chloride solution at −78° C. and the reaction mixture is stirred for 1 h. The cooling bath is removed and the reaction is quenched by addition of water and brine. The aqueous layer is extracted with ethyl acetate and the combined extracts are washed with brine and concentrated in vacuo to give the title compound which is used for the next step without further purification. LC (method 1): tR=0.92 min; Mass spectrum (ESI+): m/z=314 [M−H]−.

reactant | n-Butyllithium | 1.6 M, 2.26 mL | C(CCC)[Li]
reactant | 2,2,2-trifluoroacetamide | 205 mg | FC(C(=O)N)(F)F | C2H2F3NO
reactant | 4-bromobenzenesulfinic chloride | BrC1=CC=C(C=C1)S(=O)Cl | C6H4BrClOS
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | N-(4-Bromobenzenesulfinyl)-2,2,2-trifluoroacetamide | BrC1=CC=C(C=C1)S(=O)NC(C(F)(F)F)=O | C8H5BrF3NO2S
